US08198279B2
8-(4-Amino-3-fluorophenoxy)pyrido[3,2-b]pyrazine-2,3(1H,4H)-dione
A solution of tert-butyl 4-(2,3-diaminopyridin-4-yloxy)-2-fluorophenylcarbamate (1.03 g, 3.08 mmol) was dissolved in dry EtOH (10 mL), diethyl oxalate (10 mL) was added and the solution was heated to reflux for 96 h, cooled to RT and filtered. The title compound was isolated as a white solid. Yield: 820 mg (92%).

reactant | tert-butyl 4-(2,3-diaminopyridin-4-yloxy)-2-fluorophenylcarbamate | 3.08 mmol, 1.03 g | NC1=NC=CC(=C1N)OC1=CC(=C(C=C1)NC(OC(C)(C)C)=O)F | C16H19FN4O3
reactant | diethyl oxalate | 10 mL | C(C(=O)OCC)(=O)OCC | C6H10O4
solvent | EtOH | 10 mL | CCO | C2H6O
product | 8-(4-Amino-3-fluorophenoxy)pyrido[3,2-b]pyrazine-2,3(1H,4H)-dione | NC1=C(C=C(OC2=CC=NC3=C2NC(C(N3)=O)=O)C=C1)F | C13H9FN4O3
